data/oMe_Silver.jsonl
{"reaction_id": "NR-118_1-c1ccc(OC)cc1_2-c1ccccc1_3-S(=O)(=O)c1ccccc1_4-C_5-c1ccc(C#N)cc1_6-CC(C)C","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(S(=O)(=O)c1ccccc1)(C)[S+](c1ccc(OC)cc1)(c1ccccc1)","C(=O)(c1ccc(C#N)cc1)(CC(C)C)"],"products_smiles": ["C1(S(=O)(=O)c1ccccc1)(C)OC1(c1ccc(C#N)cc1)(CC(C)C)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](S(=O)(=O)c1ccccc1)(C)[S+](c1ccc(OC)cc1)(c1ccccc1)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(c1ccc(C#N)cc1)(CC(C)C)C(S(=O)(=O)c1ccccc1)(C)[S+](c1ccc(OC)cc1)(c1ccccc1)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(S(=O)(=O)c1ccccc1)(C)OC1(c1ccc(C#N)cc1)(CC(C)C)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
{"reaction_id": "NR-148_1-c1ccccc1_2-CC_3-CC_4-C_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CC)CC)(c1ccccc1)O[Si](C)(C)(C)","C(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["c1ccccc1C(=O)C(CC)(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](C)(C)(C))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(=O)C(CC)(CC)C(O[Si](C)(C)(C))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C(=O)C(CC)(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
